US04963568
Step 2: [1R,3S]1-Aminomethyl-5,6-dihydroxy-3-phenyl-1,2,3,4-tetrahydro-naphthalene hydrobromide
[1R,3S]1-Aminomethyl-5,6-dimethoxy-3-phenyl-1,2,3,4-tetrahydro-naphthalene hydrochloride (0.2 g, 0.67 mmol), from Step 1, was suspended in 13 mL of methylene chloride and the suspension was cooled to -78° C. in a dry ice/acetone bath. Boron tribromide (3 mL of a 1M solution in methylene chloride, 3 mmol) was added and the reaction mixture was allowed to warm to ambient temperature, kept at ambient temperature for 1.5 h then cooled to -78° C. Methanol (3 mL) was added to the reaction mixture and it was again allowed to warm to ambient temperature then concentrated in vacuo. The residue was redissolved in methanol and reconcentrated. The residue was again redissolved in methanol and the methanol solution was added to a large excess of diethyl ether. The resultant precipitate was filtered and recrystallized from ethanol/diethyl ether to give 0.14 g (64% yield) of the title compound as a white powder, m.p. 256°-259° C. 1H NMR (d6 -DMSO) delta 1.63 (q, 1H), 2.1-2.25 (m, 1H), 2.4-2.5 (m, 1H), 2.75-2.95 (m, 2H), 3.02 (dd, 1H), 3.15-3.3 (m, 1H), 3.4-3.5 (m, 1H), 6.68 (s, 2H), 7.2-7.3 (m, 1H), 7.3-7.4 (m, 4H), 7.8 (br s, 3H), 8.2 (br s, 1H), 9.1 (br s, 1H).

reactant | [1R,3S]1-Aminomethyl-5,6-dimethoxy-3-phenyl-1,2,3,4-tetrahydro-naphthalene hydrochloride | 0.67 mmol, 0.2 g | Cl.NC[C@@H]1C[C@@H](CC2=C(C(=CC=C12)OC)OC)C1=CC=CC=C1
reactant | Boron tribromide | B(Br)(Br)Br | BBr3
reactant | Methanol | 3 mL | CO | CH4O
solvent | methylene chloride | 13 mL | C(Cl)Cl | CH2Cl2
product | [1R,3S]1-Aminomethyl-5,6-dihydroxy-3-phenyl-1,2,3,4-tetrahydro-naphthalene hydrobromide | 0.14 g, 64% yield | Br.NC[C@@H]1C[C@@H](CC2=C(C(=CC=C12)O)O)C1=CC=CC=C1 | InChI=1S/C17H19NO2.BrH/c18-10-13-8-12(11-4-2-1-3-5-11)9-15-14(13)6-7-16(19)17(15)20;/h1-7,12-13,19-20H,8-10,18H2;1H/t12-,13-;/m0./s1
